US05359066
To dimethylformamide (1.5 ml) solution of diethyl malonate (47.8 μl), was added sodium hydride (24.4 mg) with stirring under ice-cooling, and the mixture was stirred for 20 minutes with ice-cooling. To the solution was added ethyl 1-[N-(chloromethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (100 mg) with stirring under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature. The reaction solution was added to a mixed solution comprising ethyl acetate (30 ml) and water (30 ml) for extraction. The organic layer was washed with water (30 ml×3) and a saturated brine(30 ml×3), dried over magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was subjected to column chromatography with silica gel (3 g), eluted with a mixed solvent of dichloromethane ethyl acetate (20/1 to 10/1) and concentrated to dryness under reduced pressure to obtain ethyl 6,7,8-trifluoro-1-[N-methyl-N-{2,2-bis(ethoxycarbonyl)ethyl}amino]-1,4-dihydro-4-oxoquinoline-3-carboxylate (49.1 mg).

reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | diethyl malonate | 47.8 μl | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 24.4 mg | [H-].[Na+]
reactant | ethyl 1-[N-(chloromethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 100 mg | ClCN(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H12ClF3N2O3
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 6,7,8-trifluoro-1-[N-methyl-N-{2,2-bis(ethoxycarbonyl)ethyl}amino]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 49.1 mg | FC=1C=C2C(C(=CN(C2=C(C1F)F)N(CC(C(=O)OCC)C(=O)OCC)C)C(=O)OCC)=O | C21H23F3N2O7
